** sch_path: /mnt/c/Users/aih16/uwasic_work/AA1624_Analog_Bootcamp/analog/schematics/tb_impedance.sch
**.subckt tb_impedance
VDD VDD GND 1.8
VSS VSS GND 0
x1 VDD VOUT V+ V- VSS opamp_single_stage
R2 V+ GND 1k m=1
R3 V- GND 1k m=1
I0 GND VOUT 0 DC 1 AC
**** begin user architecture code


.ac dec 100 10 1e12
.save all
.control
run
plot v(vout)
.endc



.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/aa1624/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/aa1624/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/aa1624/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/aa1624/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  opamp_single_stage.sym # of pins=5
** sym_path: /mnt/c/Users/aih16/uwasic_work/AA1624_Analog_Bootcamp/analog/schematics/opamp_single_stage.sym
** sch_path: /mnt/c/Users/aih16/uwasic_work/AA1624_Analog_Bootcamp/analog/schematics/opamp_single_stage.sch
.subckt opamp_single_stage Vdd Vout V+ V- Vss
*.opin Vout
*.ipin Vdd
*.ipin Vss
*.ipin V+
*.ipin V-
XM3 net1 V+ net2 Vss sky130_fd_pr__nfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Vout V- net2 Vss sky130_fd_pr__nfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 net3 Vss Vss sky130_fd_pr__nfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 net1 net1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vout net1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net3 net3 Vss Vss sky130_fd_pr__nfet_01v8 L=0.25 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR1 net3 Vdd net4 sky130_fd_pr__res_high_po W=2.5 L=0.1 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.GLOBAL VSS
.end
